US06191164B1
d) 4-Amino-6-carboxy-2,2-dimethylchroman
35.2 g (0.15 mol) of 6-carboxy-2,2-dimethyl-4-chromanone oxime are dissolved in 300 ml of methanol by addition of 600 ml of concentrated aqueous ammonia and, after addition of a few grams of Raney nickel catalyst, hydrogenated at 80° C. for 10 hours under 100 atm hydrogen pressure. After filtering off the catalyst, approximately ¾ of the solvent is distilled off in a rotary evaporator. The crystalline precipitate of 4-amino-6-carboxy-2,2-dimethylchroman is filtered off.

reactant | 6-carboxy-2,2-dimethyl-4-chromanone oxime | 0.15 mol, 35.2 g | C(=O)(O)C=1C=C2C(CC(OC2=CC1)(C)C)=NO | C12H13NO4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 300 ml | CO | CH4O
solvent | ammonia | 600 ml | N | H3N
catalyst | Raney nickel | a few grams | [Ni] | Ni
product | 4-Amino-6-carboxy-2,2-dimethylchroman | NC1CC(OC2=CC=C(C=C12)C(=O)O)(C)C | C12H15NO3
